US05594021
B. N-(4-bromo-3-methyl-5-isoxazolyl)-5-(3-nitrophenyl)thiophene-2-sulfonamide
N-(4-bromo-3-methyl-5-isoxazolyl)-5-(3-nitrophenyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 136C. Reaction of N-(3-methyl-5-isoxazolyl)-5-(3-nitrophenyl)thiophene-2-sulfonamide (328 g, 0.90 mmol) with N-bromosuccinamide (160 mg, 0.90 mmol) gave the final product. A fraction of this material was further purified by preparative HPLC to give the pure sulfonamide as a brown solid, m.p. 132° C.

reactant | N-(3-methyl-5-isoxazolyl)-5-(3-nitrophenyl)thiophene-2-sulfonamide | 0.90 mmol, 328 g | CC1=NOC(=C1)NS(=O)(=O)C=1SC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C14H11N3O5S2
reactant | N-bromosuccinamide | 0.90 mmol, 160 mg | BrNC(CCC(=O)N)=O | C4H7BrN2O2
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-(3-nitrophenyl)thiophene-2-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-])C | C14H10BrN3O5S2
